US09056881B2
Ethyl bis(pentafluoroethyl)phosphinate (1.538 g; 4.7 mmol) is added to cooled (0° C.) tributylphosphine (0.953 g; 4.7 mmol) in a 25 ml glass flask. The reaction mixture is stirred at 0° C. for 1 h, with initially a two-phase system and later the formation of a solid being observed. The reaction mixture is diluted with 10 ml of n-hexane, warmed and stirred at room temperature for 5.5 h. The readily volatile constituents are removed in vacuo (10−3 mbar) at 35° C. Tributylethylphosphonium bis(pentafluoroethyl)phosphinate, [(C4H9)3PC2H5][(C2F5)2P(O)O], (2.262 g; 4.2 mmol) is isolated as colourless solid in a yield of 89% and a purity of 98%.

reactant | Ethyl bis(pentafluoroethyl)phosphinate | 4.7 mmol, 1.538 g | FC(C(F)(F)F)(F)P(OCC)(=O)C(C(F)(F)F)(F)F | C6H5F10O2P
reactant | tributylphosphine | 4.7 mmol, 0.953 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | n-hexane | 10 ml | CCCCCC | C6H14
product | Tributylethylphosphonium bis(pentafluoroethyl)phosphinate | yield of 89% | FC(C(F)(F)F)(F)P([O-])(=O)C(C(F)(F)F)(F)F.C(CCC)[P+](CC)(CCCC)CCCC | InChI=1S/C14H32P.C4HF10O2P/c1-5-9-12-15(8-4,13-10-6-2)14-11-7-3;5-1(6,7)3(11,12)17(15,16)4(13,14)2(8,9)10/h5-14H2,1-4H3;(H,15,16)/q+1;/p-1
